US07851473B2
(3) N-[4-(2-Oxopropyl)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl [4-(2-oxopropyl)phenyl]carbamate (200 mg, 0.616 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (152 mg, 0.616 mmol), diisopropylethylamine (0.107 ml, 0.616 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (45.2 mg, 17.4%) as a solid.

reactant | 2,2,2-trichloroethyl [4-(2-oxopropyl)phenyl]carbamate | 0.616 mmol, 200 mg | O=C(CC1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O)C | C12H12Cl3NO3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.616 mmol, 152 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.616 mmol, 0.107 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-[4-(2-Oxopropyl)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | O=C(CC1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1)C | C22H23N5O2S
